data/oMe_Silver.jsonl
{"reaction_id": "NR-139_1-CC(C)=C_2-CCCC_3-C#Cc1ccccc1_4-c1ccc(C#N)cc1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1ccc(C#N)cc1)(CC(C)=C)(CCCC)(C#Cc1ccccc1)"],"products_smiles": ["C(CC(C)=C)(CCCC)(C#Cc1ccccc1)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1ccc(C#N)cc1)(CC(C)=C)(CCCC)(C#Cc1ccccc1)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](CC(C)=C)(CCCC)(C#Cc1ccccc1)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(CC(C)=C)(CCCC)(C#Cc1ccccc1)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
{"reaction_id": "NR-317_1-c1ccc(c2ccccc2)cc1_2-C(c1ccccc1)c1ccccc1","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["c1ccc(c2ccccc2)cc1[Mg]Br","CON(C)C(=O)(C(c1ccccc1)c1ccccc1)","O"],"products_smiles": ["C(=O)(c1ccc(c2ccccc2)cc1)(C(c1ccccc1)c1ccccc1)"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(c2ccccc2)cc1C(C(c1ccccc1)c1ccccc1)(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(c2ccccc2)cc1)(O)(C(c1ccccc1)c1ccccc1)N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(c2ccccc2)cc1)(O)(C(c1ccccc1)c1ccccc1)[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(c1ccc(c2ccccc2)cc1)(C(c1ccccc1)c1ccccc1)","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
